US07662845B2
b) 2-Amino-1-biphenyl-4-yl-ethanol
The product mixture obtained in a) above was dissolved in THF (ca 100 mL) and a large excess of concentrated ammonia and ethanol was added to give a homogeneous system. TLC analysis after 4 hours showed only starting materials. A slight increase in temperature gave scarce improvement and the mixture was finally heated to 70° C. in a sealed vessel for 20 hours. TLC analysis showed absence of starting materials and NMR analysis showed a complex mixture of products. The solvents were evaporated and dichloromethane (150 mL) was added to give a precipitate. The mixture was filtered and the solid, about 3.8 g, and filtrate was analysed with TLC and NMR. Analyses showed mixtures of products but with, possibly, expected product in the solid phase. A sample of the solid (1.04 g) was purified by silica gel chromatography (200 mL) using dichloromethane/methanol/concentrated ammonia (90+10+1) as eluant. Evaporation of pure fractions gave 0.62 g of the sub-titled compound.

reactant | ammonia | N | H3N
reactant | ethanol | C(C)O | C2H6O
reactant | THF | ca 100 mL | C1CCOC1 | C4H8O
product | 2-Amino-1-biphenyl-4-yl-ethanol | 0.62 g | NCC(O)C1=CC=C(C=C1)C1=CC=CC=C1 | C14H15NO
